US09102669B2
To a solution of ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate (90 mg, 0.2 mmol) in EtOH (3 mL) was added NaBH4 (76 mg, 2 mmol). The resulting mixture was heated at 65° C. for 2 h and then poured into CH2Cl2/H2O (50 mL/50 mL). The aqueous layer was extracted with CH2Cl2 (50 ml). The combined organic layer was dried (Na2SO4) and filtered. The solvent was removed and the resulting residue was purified by silica gel column using EtOAc to 2% MeOH/EtOAc as the eluent to yield 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)ethanol.

reactant | ethyl 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)acetate | 0.2 mmol, 90 mg | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1C=NN(C1)CC(=O)OCC | C24H27FN6O2
reactant | NaBH4 | 2 mmol, 76 mg | [BH4-].[Na+]
reactant | CH2Cl2 H2O | 50 mL | C(Cl)Cl.O
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-(4-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-1H-pyrazol-1-yl)ethanol | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1C=NN(C1)CCO | C22H25FN6O
